US06410585B1
5-((2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-{[(4-hydroxy-2-phenyl-3,4-dihydro-2H-chromen-4-yl)methyl]amino}-3-oxopropyl)-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid (82 mg, 0.15 mmol) and 4-(aminomethyl)-2-phenyl-4-chromanol (45 mg, 0.18 mmol) according to Method C with HPLC purification to give the title compound (15 mg). 1H-NMR (400 MHz, CD3OD) d 7.64 (s, 1H), 6.84 (dd, J=1.0 Hz, J=8.3 Hz, 1H), 5.33 (d, J=12.0 Hz, 1H), 4.64 (s, 2H), 4.63 (m, 1H), 4.28 (m, 1H), 3.95 (m, 1H), 3.19 (m, 1H), 1.35 (s, 3H), 1.32 (s, 6H); HRMS m/z 767.3084 (calc. of monoisotopic mass for C42H45N3O11 gives 767.3054).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | 0.15 mmol, 82 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | 4-(aminomethyl)-2-phenyl-4-chromanol | 0.18 mmol, 45 mg | NCC1(CC(OC2=CC=CC=C12)C1=CC=CC=C1)O | C16H17NO2
product | 5-((2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-{[(4-hydroxy-2-phenyl-3,4-dihydro-2H-chromen-4-yl)methyl]amino}-3-oxopropyl)-2-(carboxymethoxy)benzoic Acid | 15 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(=O)NCC1(CC(OC2=CC=CC=C12)C1=CC=CC=C1)O)CC1=CC=CC=C1 | C42H45N3O11
